US04025644
To a solution of 0.9 g of N-(4-methoxybenzoyl)-phenylalanyltyrosine and 10 ml of ethanol, 10 ml of water was added. The mixture was adjusted to a pH of 8 with 1N sodium hydroxide and concentrated to dryness. Sodium N-(4-methoxybenzoyl)-phenylalanyltyrosinate in the form of a powder was obtained.

reactant | N-(4-methoxybenzoyl)-phenylalanyltyrosine | 0.9 g | COC1=CC=C(C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=C(C=C2)O)C(=O)O)C=C1 | C26H26N2O6
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | Sodium N-(4-methoxybenzoyl)-phenylalanyltyrosinate | COC1=CC=C(C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=C(C=C2)O)C(=O)[O-])C=C1.[Na+] | InChI=1S/C26H26N2O6.Na/c1-34-21-13-9-19(10-14-21)24(30)27-22(15-17-5-3-2-4-6-17)25(31)28-23(26(32)33)16-18-7-11-20(29)12-8-18;/h2-14,22-23,29H,15-16H2,1H3,(H,27,30)(H,28,31)(H,32,33);/q;+1/p-1/t22-,23-;/m0./s1
